US07501438B2
Preparation of 2,2,2-trifluoro-1-(3-propyl-imidazo[1,5-a]pyridin-1-yl)-ethanone
A solution of 3-propyl-imidazo[1,5-a]pyridine (459 mg, 2.87 mmol) in DMF (10 mL) was cooled in an ice bath. To this mixture was added trifluoroacetic anhydride (0.88 mL, 6.32 mmol). The mixture was allowed to stir for 3 h. After this time the mixture was poured into 10% potassium carbonate (100 mL) and stirred for 1 h. The resulting precipitate was filtered and dried to yield the title compound (575 mg, 78%). 1H NMR (DMSO-d6) δ 8.70 (1H), 8.25 (1H), 7.66 (1H), 7.27 (1H), 3.06 (2H), 1.81 (2H), 1.01 (3H); m/z (M+H)=257.1.

reactant | 3-propyl-imidazo[1,5-a]pyridine | 2.87 mmol, 459 mg | C(CC)C1=NC=C2N1C=CC=C2 | C10H12N2
reactant | trifluoroacetic anhydride | 6.32 mmol, 0.88 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | potassium carbonate | 100 mL | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2,2,2-trifluoro-1-(3-propyl-imidazo[1,5-a]pyridin-1-yl)-ethanone | 575 mg, 78% | FC(C(=O)C=1N=C(N2C1C=CC=C2)CCC)(F)F | C12H11F3N2O
